US04032643
A mixture of 125 ml of tetrahydrofuran and 3.42 g of lithium aluminum hydride was cooled to about 10° C. and a mixture of 10.9 g of methyl 2-methyl-5-thiazolepropanoate in 70 ml of tetrahydrofuran was slowly added thereto with stirring while keeping the temperature between 10-15° C. The mixture was then stirred for about 30 minutes and tetrahydrofuran containing 20% of water was slowly added. The mixture was filtered and the filter was washed with ethyl acetate. The filtrate was dried over magnesium sulfate and concentrated to dryness under reduced pressure to obtain 8.4 g of a raw product which was rectified under reduced pressure to obtain 6.4 g of 2-methyl-5-thiazole-propanol with a boiling point of 106° C. at 0.05 mm Hg.

reactant | lithium aluminum hydride | 3.42 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2-methyl-5-thiazolepropanoate | 10.9 g | CC=1SC(=CN1)CCC(=O)OC | C8H11NO2S
reactant | water | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 2-methyl-5-thiazole-propanol | 6.4 g | CC=1SC(=CN1)CCCO | C7H11NOS
